US05192774
1.59 g of N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-chloroacetamide was dissolved in 9 ml of dimethylformamide in accordance with preparation method A, and 637 mg of potassium cyanide was added thereto, followed by stirring at external temperature of 90° C. for 1.5 hours. After the reaction solution was cooled down, saturated NaCl solution was added and extraction was carried out with ethyl acetate and dried over magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. The thus obtained residue was dissolved in benzene, and then hydrochloric acid-ether solution was added thereto to obtain a deposited oily substance by an inclination method. Then, aqueous saturated sodium hydrogencarbonate solution was added to the thus obtained oily substance and extracted again by ethyl, dried over magnesium sulfate, distilled under reduced pressure to obtain a brown oily substance. This was subjected to silica gel column chromatography (solvent; chloroform:methanol=7:1). 418 mg of light brown oily N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-cyanoacetamide was obtained.

reactant | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-chloroacetamide | 1.59 g | N1(CCCCC1)CC=1C=C(OCCCNC(CCl)=O)C=CC1 | C17H25ClN2O2
reactant | potassium cyanide | 637 mg | [C-]#N.[K+]
reactant | NaCl | [Na+].[Cl-]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-cyanoacetamide | 418 mg | N1(CCCCC1)CC=1C=C(OCCCNC(CC#N)=O)C=CC1 | C18H25N3O2
